US04652651
115 mg (0.19 mmol) of (3S,4R)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-(p-nitro-benzyloxycarbonyl)-1-methylethoxy]imino]acetamido]-4-methyl-2-oxo-1-azetidinesulphonic acid sodium salt are dissolved in 40 ml of water/tetrahydrofuran (1:1) and the solution is hydrogenated for 12 hours over 300 ml of 10% palladium/carbon. The catalyst is filtered off and the solvent is evaporated under reduced pressure. The oil obtained is chromatographed (230-400 mesh, chloroform/methanol/n-propanol/water (4:6:1:4) as the solvent]. There are obtained 28.6 mg (33%) of (3S,4R)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(1-carboxy-1-methylethoxy]imino]acetamido]-4-methyl-2-oxo-1-azetidinesulphonic acid sodium salt.

reactant | (3S,4R)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-(p-nitro-benzyloxycarbonyl)-1-methylethoxy]imino]acetamido]-4-methyl-2-oxo-1-azetidinesulphonic acid sodium salt | 0.19 mmol, 115 mg | [Na+].NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1C)S(=O)(=O)[O-])=O)=N/OC(C)(C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | water tetrahydrofuran | 40 ml | O.O1CCCC1
catalyst | palladium/carbon | 300 ml | [Pd] | Pd
product | (3S,4R)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[(1-carboxy-1-methylethoxy]imino]acetamido]-4-methyl-2-oxo-1-azetidinesulphonic acid sodium salt | 28.6 mg, 33% | [Na+].NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1C)S(=O)(=O)[O-])=O)=N/OC(C)(C)C(=O)O | InChI=1S/C13H17N5O8S2.Na/c1-5-7(10(20)18(5)28(23,24)25)16-9(19)8(6-4-27-12(14)15-6)17-26-13(2,3)11(21)22;/h4-5,7H,1-3H3,(H2,14,15)(H,16,19)(H,21,22)(H,23,24,25);/q;+1/p-1/b17-8-;/t5-,7+;/m1./s1
